US08183380B2
1-[2-(Cyclopropyl-methyl-amino)-ethyl]-3-[2-((R)-indan-1-ylamino)-quinolin-6-yl]-urea
The title compound was prepared in accordance with the general method 4 described in example 16 from bis(trichloromethyl) carbonate, N(1)-cyclopropyl-N(1)-methyl-ethane-1,2-diamine and (R)—N2-indan-1-yl-quinoline-2,6-diamine; MS: m/e=416.6 (M+H+).

reactant | bis(trichloromethyl) carbonate | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | N(1)-cyclopropyl-N(1)-methyl-ethane-1,2-diamine | C1(CC1)N(CCN)C | C6H14N2
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
product | 1-[2-(Cyclopropyl-methyl-amino)-ethyl]-3-[2-((R)-indan-1-ylamino)-quinolin-6-yl]-urea | C1(CC1)N(CCNC(=O)NC=1C=C2C=CC(=NC2=CC1)N[C@@H]1CCC2=CC=CC=C12)C | C25H29N5O
